US04484993
In Example 20, by using tin chloride instead of zinc powder, trifluoromethyl was caused to react with trifluoromethyl iodide (SnCl2), as in the case of the Example 20, and CF3SnCl2I was obtained. Consecutively, as in the case of the Example 20, CF3SnCl2I was put into a flask together with benzaldehyde and dimethylformamide, and subjected to reaction under the action of ultrasonic waves, and the product extracted from an oil layer generated was hydrolyzed, thereby phenyltrifluoromethylcarbinol was obtained.

reactant | CF3SnCl2I | C(F)(F)(F)[Sn](Cl)(Cl)I
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | phenyltrifluoromethylcarbinol | C1(=CC=CC=C1)C(O)C(F)(F)F | C8H7F3O
